US09371320B2
D) 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine
To a solution of tert-butyl 4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperazine-1-carboxylate (920 mg) in dichloromethane (10 mL) was added trifluoroacetic acid (4 mL) under ice-cooling, and the mixture was stirred at room temperature for 5 hr, and concentrated under reduced pressure. The residue was diluted with dichloromethane, and the mixture was adjusted to pH=9 with saturated aqueous sodium carbonate solution, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (744 mg).

reactant | tert-butyl 4-(4-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)piperazine-1-carboxylate | 920 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C28H29F2N5O3
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 744 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCNCC2 | C23H21F2N5O
